US06291530B1
A mixture of 3′,4′-dihydroxyacetophenone (25.0 g, 164.3 mmol), lithium carbonate (12.1 g, 164.3 mmol), and α-bromo-2,6-difluorotoluene (34.0 g, 164.3 mmol) in dimethyl formamide (400 mL) is stirred at room temperature for 2 days. The mixture is then filtered through celite, and the filtrate is concentrated in vacuo. The residue is diluted with H2O(200 mL), and the mixture is filtered. The collected solid is recrystallized from ethanol to give 3′-hydroxy-4′-(2,6-difluorobenzyloxy)-acetophenone.

reactant | 3′,4′-dihydroxyacetophenone | 164.3 mmol, 25.0 g | OC=1C=C(C=CC1O)C(C)=O | C8H8O3
reactant | lithium carbonate | 164.3 mmol, 12.1 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | α-bromo-2,6-difluorotoluene | 164.3 mmol, 34.0 g | BrCC1=C(C=CC=C1F)F | C7H5BrF2
solvent | dimethyl formamide | 400 mL | CN(C=O)C | C3H7NO
product | 3′-hydroxy-4′-(2,6-difluorobenzyloxy)-acetophenone | OC=1C=C(C=CC1OCC1=C(C=CC=C1F)F)C(C)=O | C15H12F2O3
